US05741791
To a solution of 10,11-dihydro-5H-dibenzo[b,f]azepine (16.2 g, 0.083 mol) in dry dibutyl ether (120 ml) kept under an atmosphere of nitrogen, sodium hydride (3.2 g, 0.08 mol, 60% dispersion in oil) was carefully added. The reaction mixture was heated at reflux temperature for 4 h and then allowed to cool to 80° C. 4-Chloro-1-butyl tetrahydro-2-pyranyl ether (18.5 g, 0.096 mol) was added and the mixture heated at reflux temperature for 16 h. After cooling to room temperature, water (40 ml) was added, and the phases were separated. The organic phase was evaporated until dryness. The residue was dissolved in a mixture of methanol (300 ml) and 4N HCl (100 ml). The mixture was heated at reflux temperature for 15 minutes and then stirred for 1 h at room temperature. Water (500 ml) was added and the mixture was extracted with ethyl acetate (6×200 ml). The combined organic extracts were dried (Na2SO4), filtered and the solvent evaporated. This afforded a residue which was purified by column chromatography on silica gel (400 g) using a mixture of n-heptane and ethyl acetate (3:2) as eluent. 13.1 g (59%) of 4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-1-butanol was obtained as an oil, that solidified upon cooling in a refrigerator overnight. Rf : 0.34 (SiO2 ; n-heptane/ethyl acetate=1:1).

reactant | 10,11-dihydro-5H-dibenzo[b,f]azepine | 0.083 mol, 16.2 g | C1=CC=CC=2NC3=C(CCC21)C=CC=C3 | C14H13N
reactant | sodium hydride | 0.08 mol, 3.2 g | [H-].[Na+]
reactant | 4-Chloro-1-butyl tetrahydro-2-pyranyl ether | 0.096 mol, 18.5 g | O1C(CCCC1)OCCCCCl | C9H17ClO2
reactant | water | 40 ml | O | H2O
solvent | dibutyl ether | 120 ml | C(CCC)OCCCC | C8H18O
product | 4-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-1-butanol | 13.1 g, 59% | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCCO | C18H21NO
